* C:\users\mxmont\My Documents\Universidad\TESIS\ChipVerification\PulseGenerator\switchedC_modified.asc
C1 N003 N004 100p
R1 N005 0 11
V1 N002 0 PULSE(0 3.3 0 2n 1n 50 50 1)
C4 N004 N005 1µ
R3 N004 0 3.3k
I1 0 NC_01 PWL(0.001n 0 0.01n 4m 0.1n 4m 0.11n 0)
B1 NC_02 0 V=IDT(I(I1))
B2 NC_03 0 V=IDT(I(R1))
XU1 N001 N002 N003 NMOS_SSM3K56MFV
V2 N001 0 3.3
.tran 0 15n 0 100n
.lib Contrib/Toshiba/nmos/SSM3K56MFV.lib
.backanno
.end
